US05236952
A solution of 552 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone and 2.7 g of 2-aminoacetophenone in 100 ml of dry N,N-dimethylformamide is stirred at 90° for 24 hours. The reaction mixture is evaporated, the residue is dissolved in ethyl acetate, washed with water, dried over sodium sulfate, filtered and evaporated. There is obtained 2-(3,4-dihydroxy-5-nitrobenzoyl)-3-methylindole of m.p. 212°-214° (from n-butanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 552 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-aminoacetophenone | 2.7 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-dihydroxy-5-nitrobenzoyl)-3-methylindole | OC=1C=C(C(=O)C=2NC3=CC=CC=C3C2C)C=C(C1O)[N+](=O)[O-] | C16H12N2O5
